US06307087B1
4-Hexylanisole.
An oven-dried resealable Schlenk tube was capped with a rubber septum, cooled under an argon purge, charged with 1-hexene (0.19 mL, 1.5 mmol), and cooled to 0° C. A solution of 9-BBN in THF (3 mL, 1.5 mmol, 0.5 M) was added, the flask was stirred at 0° C. for 15 min, then warmed to room temperature and stirred for 5 h. 4-Chloroanisole (0.12 mL, 1.0 mmol) was added, the septum was removed, and palladium acetate (4.4 mg, 0.02 mmol, 2 mol %), ligand 2 (11.9 mg, 0.03 mmol, 3 mol %), and cesium fluoride (456 mg, 3.0 mmol) were added under a stream of argon. The septum was replaced and the flask was purged with argon for 30 s. Dioxane (2 mL) was added, the septum was removed, the tube was sealed with a teflon screw cap, and the mixture was stirred at rt for 2 min. The reaction mixture was then heated to 50° C. with stirring for 22 h, at which time GC analysis showed the aryl chloride had been completely consumed. The mixture was cooled to room temperature, diluted with ether (20 mL), and poured into a separatory funnel. The mixture was washed with 1 M aqueous NaOH (20 mL), the layers were separated, and the aqueous phase was extracted with ether (20 mL). The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography to afford 170 mg (89%) of a colorless oil: 1H NMR (300 MHz, CDCl3) δ 7.09 (d, 2H, J=8.8 Hz), 6.82 (d, 2H, J=8.6 Hz), 3.78 (s, 3H), 2.54 (t, 2H, J=7.5 Hz), 1.54-1.60 (m, 2H), 1.28-1.35 (m, 6H), 0.88 (t, 3H, J=6.8 Hz); 13C NMR (125 MHz, CDCl3) δ 157.6, 135.0, 129.2, 113.6, 55.2, 35.0, 31.73, 31.70, 28.9, 22.6, 14.1; IR (neat, cm−1) 2926, 1513, 1243, 1038, 822. Anal Calcd for C13H20O: C, 81.20; 11, 10.48. Found: C, 81.19; H, 10.62.

reactant | 1-hexene | 1.5 mmol, 0.19 mL | C=CCCCC | C6H12
reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
reactant | THF | 1.5 mmol, 0.5 M, 3 mL | C1CCOC1 | C4H8O
reactant | 4-Chloroanisole | 1.0 mmol, 0.12 mL | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | cesium fluoride | 3.0 mmol, 456 mg | [F-].[Cs+]
catalyst | palladium acetate | 0.02 mmol, 4.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2,5,3′-Trimethylbiphenyl | 0.03 mmol, 11.9 mg | CC1=C(C=C(C=C1)C)C1=CC(=CC=C1)C | C15H16
product | 4-Hexylanisole | 170 mg, 89% | C(CCCCC)C1=CC=C(C=C1)OC | C13H20O
